US07625869B2
After 1.54 mL of mono-tert-butyl malonate, 1.08 g of fluorenylmethanol and 61 mg of DMAP were dissolved in 20 mL of DCM 20, 1.15 g of WSCD HCl was added to the solution, followed by stirring at room temperature for 24 hours. The solvent was distilled off in vacuum, the residue was dissolved in AcOEt. The solution was then washed with 1N HCl aq. solution, satd. NaHCO3 aq. solution and then satd. NaCl aq. solution. After drying over Na2SO4, the solvent was concentrated and the concentrate was purified by flash column chromatography to give 1.62 g (yield 96%) of tert-butyl fluorenylmethyl malonate. In 20 mL of TFA, 61 mg of tert-butyl fluorenylmethyl malonate was dissolved and the solution was stirred at room temperature for 2 hours. After the solvent was distilled off in vacuum, the residue was dissolved in AcOEt, followed by washing with satd. NaCl aq. solution. After drying over Na2SO4, the solvent was concentrated and purified by flash column chromatography to give 850 mg (yield 67%) of mono-fluorenylmethyl malonate. After 5 mL of 20% piperidine/DMF was added to 46 mg (15 μmol) of Fmoc-LeuArg(Me,Boc2)Trp(Boc)-Rink amide MBHA resin prepared in a manner similar to EXAMPLE 15, the solution was shaken at room temperature for 30 minutes. After the resin washed, 42 mg of mono-fluorenylmethyl malonate, 70 mg of PyBrop, 300 μL of 0.5M HOAt/DMF, 52 μL of DIEA and 1 mL of DMF were added to the resin, and the mixture was shaken for 15 hours. After this procedure was repeated twice, 8 μL of Ac2O, 5 μL of DIEA and 2 mL of DCM were added, followed by stirring at room temperature for 30 minutes. After the resin washed and then dried, 5 mL of 20% piperidine/DMF was added to a half of the resin, followed by stirring at room temperature for 30 minutes. After the resin washed, 13 mg of dibenzylhydrazine, 28 mg of PyBrop, 120 μL of 0.5M HOAt/DMF, 21 μL of DIEA and 1 mL of DMF were added to the resin, followed by shaking for 15 hours. After the resin washed and then dried, 200 μL of TFA/PhSMe/m-cresol/TIS/EDT (85/5/5/2.5/2.5) was added to the resin, followed by stirring for 2 hours. Ether was added to the reaction solution, the resulting precipitate was centrifuged and the supernatant was removed. This procedure was repeated for washing. The residue was extracted with an aqueous acetic acid solution and the extract was filtered to remove the resin. Then, linear density gradient elution (120 minutes) was performed with eluants A/B: 83/17-63/37 using: 0.1% TFA in water and eluant B: 0.1% TFA-containing acetonitrile on preparative HPLC using YMC D-ODS-5-ST S-5 120A column (20×150 mm). The fractions containing the product were collected and lyophilized to give 21.6 mg of white powders.

reactant | mono-tert-butyl malonate | 1.54 mL | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | fluorenylmethanol | 1.08 g | C1(=CC=CC=2C3=CC=CC=C3CC12)CO | C14H12O
reactant | WSCD HCl | 1.15 g | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl fluorenylmethyl malonate | 1.62 g, yield 96% | C(CC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)(=O)OC(C)(C)C | C21H22O4
